US04632930
4-(1-Methylethyl)-5(4-methylthiophenyl)α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol
To a stirred solution of 4-(1-methyethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole (9.8 g, 32.2 mmol) in 110 ml of dry tetrahydrofuran was added 4.31 g (37.1 mmoles) of tetramethylethylenediamine. The reaction mixture was cooled to -78° C. and 32.24 ml of 1.65M n-butyl lithium in hexane was added dropwise via an addition funnel. After stirring the mixture an additional 20 minutes, hexafluoroacetone (9.0 ml) was condensed and added dropwise. The mixture was stirred at -78° C. for 1 hour and then 150 ml of saturated aqueous sodium bicarbonate solution was added dropwise. The reaction mixture was warmed to room temperature and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The organic layers were combined and concentrated to dryness in vacuo. The residue was stirred overnight in 215 ml of ethanol and 215 ml of 2N aqueous hydrochloric acid. The ethanol was removed in vacuo and the reaction mixture was basified to a pH of 8 with saturated aqueous potassium carbonate. The reaction mixture was extracted with ether, washed with 10% aqueous sodium bicarbonate and dried over anhydrous potassium carbonate. The residue was purified via flash chromatography on silica gel (92:8 hexane/ethyl acetate) to afford 7.55 g (59%) of a yellow oil which was triturated with hexane to give 7.55 g (59%) of the product as a white crystalline solid, m.p. 115°-117° C.

reactant | 4-(1-methyethyl)-5-(4-methylthiophenyl)-1-(α-ethoxyethyl)imidazole | 32.2 mmol, 9.8 g | CC(C)C=1N=CN(C1C1=CC=C(C=C1)SC)C(C)OCC | C17H24N2OS
reactant | tetramethylethylenediamine | 37.1 mmoles, 4.31 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 1.65M, 32.24 ml | C(CCC)[Li]
reactant | hexafluoroacetone | 9.0 ml | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(1-Methylethyl)-5(4-methylthiophenyl)α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 7.55 g, 59% | CC(C)C=1N=C(NC1C1=CC=C(C=C1)SC)C(O)(C(F)(F)F)C(F)(F)F | C16H16F6N2OS
